US04891432
To a solution of 0.97 g 6-[p-[5-(1-imidazolyl)pentyloxy]phenoxy]-2,2-dimethylhexanamide in 50 ml dichloromethane was added 0.94 ml pyridine, the solution was cooled down to -20° C., 1.57 g phosphorus pentachloride was added, and the resulting mixture was stirred to allow the temperature to rise to 15° C. over a period of about one hour. Chloroform (30 ml) and ice water (30 ml) were admixed in that order, and the organic layer was collected and washed with 5% aqueous solution of sodium bicarbonate until the pH of aqueous layer rose to 7.5 to 8.0 and then with saturated sodium chloride solution. After dehydration, the solvent was distilled off, and the residue was purified by silica gel column chromatography, affording 0.82 g of 6-[p-[5-(1-imidazolyl)pentyloxy]phenoxy]-2,2-dimethylhexane-nitrile.

reactant | 6-[p-[5-(1-imidazolyl)pentyloxy]phenoxy]-2,2-dimethylhexanamide | 0.97 g | N1(C=NC=C1)CCCCCOC1=CC=C(OCCCCC(C(=O)N)(C)C)C=C1 | C22H33N3O3
reactant | pyridine | 0.94 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | 1.57 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | Chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 6-[p-[5-(1-imidazolyl)pentyloxy]phenoxy]-2,2-dimethylhexane-nitrile | 0.82 g | N1(C=NC=C1)CCCCCOC1=CC=C(OCCCCC(C#N)(C)C)C=C1 | C22H31N3O2
